US07001588B2
Preparation of 2,5-bis(3-pyridylhydroxymethyl)selenophene
To a three necked, round bottomed flask flushed with argon was added 150 mL of anhydrous hexane, 14.4 mL (0.09 mol) of TMEDA and 60 mL (1.6M in hexane) (0.09 mol) of n-butyllithium, 3.5 mL (0.04 mol) of selenophene was then added at room temperature, the mixture was refluxed for 1 h. After cooling to room temperature, the suspension formed was slowly transferred dropwise via needle to a degassed solution of 9.04 mL(0.09 mol) 3-pyridinecarboxaldehyde in 250 mL of anhydrous THF. After the addition was completed, the mixture was stirred for overnight. Ice cold NH4Cl was added to quench the reaction. The phases were separated and the water layer was extracted with 1:6 methanol-chloroform mixture. The organic layers were combined, washed with water and dried over Na2SO4. After removal of solvent, the residue was purified by chromatography on silica gel using chloroform-methanol (8:1) as eluent to give 4.6 g (35%) of the product. 1HNMR (DMSO-d6) δ 8.59 (s, 2H), 8.45 (dd, J=4.7 Hz, 2H), 7.77 (dd, J=4.7 Hz, 2H), 7.32–7.37 (dd, J=4.7 Hz, 2H), 6.87 (d, 2H), 6.45 (br s, 2H), 5.91 (s, 2H); HRMS (FAB) calcd. for C16H15O2N2Se: 347.0299; found: 347.0297.

reactant | TMEDA | 0.09 mol, 14.4 mL | CN(C)CCN(C)C | C6H16N2
reactant | n-butyllithium | 0.09 mol, 1.6M, 60 mL | C(CCC)[Li]
reactant | selenophene | 0.04 mol, 3.5 mL | [Se]1C=CC=C1 | C4H4Se
reactant | 3-pyridinecarboxaldehyde | 0.09 mol, 9.04 mL | N1=CC(=CC=C1)C=O | C6H5NO
reactant | THF | 250 mL | C1CCOC1 | C4H8O
solvent | hexane | 150 mL | CCCCCC | C6H14
product | 2,5-bis(3-pyridylhydroxymethyl)selenophene | 4.6 g, 35% | N1=CC(=CC=C1)C(C=1[Se]C(=CC1)C(O)C=1C=NC=CC1)O | C16H14N2O2Se
